US08134001B2
Preparation of intermediate 5-bromo-2-(4-fluoro-benzyloxy)-benzaldehyde
To a mixture of 5-bromo-2-hydroxy-benzaldehyde (5 g, 25 mmol), KI (2 g) and K2CO3 (7 g, 50 mmol) in DMF (100 mL) was added 1-chloromethyl-4-fluoro-benzene (3.96 g, 28 mmol). The mixture was heated at 140° C. for 2 h, then cooled to room temperature, partitioned between water and ethyl acetate. The organic layer was washed with water for 3 times, dried over anhydrous Na2SO4 and concentrated. The residue was purified by column chromatography to give the title compound (4.5 g).

reactant | 5-bromo-2-hydroxy-benzaldehyde | 25 mmol, 5 g | BrC=1C=CC(=C(C=O)C1)O | C7H5BrO2
reactant | K2CO3 | 50 mmol, 7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-chloromethyl-4-fluoro-benzene | 28 mmol, 3.96 g | ClCC1=CC=C(C=C1)F | C7H6ClF
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 5-bromo-2-(4-fluoro-benzyloxy)-benzaldehyde | 4.5 g | BrC=1C=CC(=C(C=O)C1)OCC1=CC=C(C=C1)F | C14H10BrFO2
